US07135466B2
Sodium hydride (60 mg) was dissolved in dimethylformamide (3 ml) to prepare a solution. A dimethylformamide solution (5 ml) of 2,4-dichlorophenol (245 mg) was then added to the solution, and the mixture was stirred at room temperature for 10 min. Subsequently, a dimethylformamide solution (5 ml) of bromomethylacetate (344 mg) was added thereto, and the mixture was further stirred at room temperature for 90 min. Water was added to stop the reaction, and the reaction solution was extracted with ethyl acetate, followed by washing with water and saturated brine. The extract was then dried over sodium sulfate. After the concentration of the extract, a 5% aqueous sodium hydroxide solution (10 ml) was added thereto, and the mixture was stirred at 80° C. for 10 hr. Subsequently, the solution was acidified by the addition of 1 N hydrochloric acid. The resultant white precipitate was collected by filtration and was dried to give 2-(2,4-dichlorophenoxy)acetic acid (310 mg, yield 94%).

reactant | Sodium hydride | 60 mg | [H-].[Na+]
reactant | 2,4-dichlorophenol | 245 mg | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | bromomethylacetate | 344 mg | BrCOC(C)=O | C3H5BrO2
reactant | Water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-dichlorophenoxy)acetic acid | 310 mg, yield 94% | ClC1=C(OCC(=O)O)C=CC(=C1)Cl | C8H6Cl2O3
